US07175854B2
dimepranol acedoben;
imiquimod; interferon beta-lb; lisofylline; mycophenolate mofetil; prezatide copper acetate.

reactant | imiquimod | CC(C)CN1C=NC2=C1C=3C=CC=CC3N=C2N | C14H16N4
reactant | lisofylline | C[C@H](CCCCN1C(=O)C2=C(N=CN2C)N(C1=O)C)O | C13H20N4O3
reactant | mycophenolate mofetil | CC1=C2C(=C(C(=C1OC)C/C=C(\C)/CCC(=O)OCCN3CCOCC3)O)C(=O)OC2 | C23H31NO7
catalyst | prezatide copper acetate | CC(=O)O.C1=C(NC=N1)C[C@@H](C(=O)N[C@@H](CCCCN)C(=O)O)NC(=O)CN.[Cu+2]
product | dimepranol acedoben | CC(CN(C)C)O.CC(=O)NC1=CC=C(C=C1)C(=O)O | InChI=1S/C9H9NO3.C5H13NO/c1-6(11)10-8-4-2-7(3-5-8)9(12)13;1-5(7)4-6(2)3/h2-5H,1H3,(H,10,11)(H,12,13);5,7H,4H2,1-3H3
